US06316482B1
A solution of 4-(2,3-diaminobenzoyl)amino-3-methoxy-N-methyl-N-[4-methyl-2-[5-(4-methylpiperazin-1-yl)carbonylpent-1-yloxy]phenyl]benzamide (150 mg), butyrolactone (628 mg) and p-toluenesulfonic acid (139 mg) was heated at 100° C. for 4 hours. The reaction mixture was diluted with chloroform and washed with aqueous sodium hydrogen carbonate. The extract was dried over sodium sulfate. After evaporation of the solvent, the residue was purified by silica gel column chromatography (10% methanol in chloroform) and then preparative thin-layer chromatography (chloroform/methanol=20/3) to give 4-[2-(3-hydroxypropyl)-1H-benzimidazol-4-yl]carbonylamino-3-methoxy-N-methyl-N-[4-methyl-2-[5-(4-methylpiperazin-1-yl)carbonylpent-1-yloxy]phenyl]benzamide (70 mg).

reactant | 4-(2,3-diaminobenzoyl)amino-3-methoxy-N-methyl-N-[4-methyl-2-[5-(4-methylpiperazin-1-yl)carbonylpent-1-yloxy]phenyl]benzamide | 150 mg | NC1=C(C(=O)NC2=C(C=C(C(=O)N(C3=C(C=C(C=C3)C)OCCCCCC(=O)N3CCN(CC3)C)C)C=C2)OC)C=CC=C1N | C34H44N6O5
reactant | butyrolactone | 628 mg | C1(CCCO1)=O | C4H6O2
reactant | p-toluenesulfonic acid | 139 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 4-[2-(3-hydroxypropyl)-1H-benzimidazol-4-yl]carbonylamino-3-methoxy-N-methyl-N-[4-methyl-2-[5-(4-methylpiperazin-1-yl)carbonylpent-1-yloxy]phenyl]benzamide | 70 mg | OCCCC1=NC2=C(N1)C=CC=C2C(=O)NC2=C(C=C(C(=O)N(C1=C(C=C(C=C1)C)OCCCCCC(=O)N1CCN(CC1)C)C)C=C2)OC | C38H48N6O6
